US05120841
(a) Production of 1-Iodoethyl 3,3,5-Trimethylcyclohexyl Carbonate
Acetonitrile (250 ml) is warmed to 50° C. and 38 g of sodium iodide is added and dissolved, followed by addition of 14 g of 1-chloroethyl 3,3,5-trimethylcyclohexyl carbonate. The mixture is stirred for 2 hours, poured into 250 ml of ice-water and extracted with two 200-ml portions of ethyl acetate. The extracts are combined, washed with 150 ml of 5% aqueous sodium thiosulfate, 300 ml of water and 300 ml of saturated aqueous sodium chloride (twice) in that order and dried over anhydrous sodium sulfate. The solvent is then distilled off under reduced pressure to to give the title compound as oil.

reactant | sodium iodide | 38 g | [I-].[Na+]
reactant | 1-chloroethyl 3,3,5-trimethylcyclohexyl carbonate | 14 g | C(OC(C)Cl)(OC1CC(CC(C1)C)(C)C)=O | C12H21ClO3
solvent | Acetonitrile | 250 ml | C(C)#N | C2H3N
product | 1-Iodoethyl 3,3,5-Trimethylcyclohexyl Carbonate | C(OC(C)I)(OC1CC(CC(C1)C)(C)C)=O | C12H21IO3
